US07319103B2
8-[4-(3-Chloro-propoxy)-phenyl]-5H,7H-6-oxa-1,4,8a-triaza-s-indacene
Using the method described for the preparation of 10-[4-(3-Chloro-propoxy)-phenyl]-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene, the reaction of 4-(5,6,7,8-tetrahydro-pyrazolo[5,1-b]quinazolin-9-yl)-phenol and 1-bromo-3-chloropropane provided the title compound which was used without further purification.

reactant | 10-[4-(3-Chloro-propoxy)-phenyl]-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene | ClCCCOC1=CC=C(C=C1)C=1N2N=CC=C2N=C2C1CCCCC2 | C20H22ClN3O
reactant | 4-(5,6,7,8-tetrahydro-pyrazolo[5,1-b]quinazolin-9-yl)-phenol | N1=CC=C2N=C3CCCCC3=C(N21)C2=CC=C(C=C2)O | C16H15N3O
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 8-[4-(3-Chloro-propoxy)-phenyl]-5H,7H-6-oxa-1,4,8a-triaza-s-indacene | ClCCCOC1=CC=C(C=C1)C1=C2COCC2=NC2=CC=NN12 | C17H16ClN3O2
